US04822805
To a suspension of 1-hydroxyimino-1-(3-pyridyl)acetone (1.64 g) in a mixture of dioxane (30 ml), ethanol (10 ml), and water (5 ml) were added 3,4-dimethoxybenzaldehyde (1.66 g) and conc. ammonia water (0.69 ml). The solution was stirred at 60° C. for 2 hours. Additional ammonia water (0.7 ml) was added thereto, and the solution was stirred at 45° to 50° C. for 1 day. The mixture was evaporated, and the residue was dissolved in chloroform, and subjected to column chromatography on silicagel eluting with a mixture of chloroform and methanol. The fractions were collected and evaporated, and the residue was triturated with diisopropyl ether to give 1-hydroxy-2-(3,4-dimethoxyphenyl)-4-methyl-5-(3-pyridyl)imidazole (1.20 g).

reactant | 1-hydroxyimino-1-(3-pyridyl)acetone | 1.64 g | ON=C(C(=O)C)C=1C=NC=CC1 | C8H8N2O2
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | 3,4-dimethoxybenzaldehyde | 1.66 g | COC=1C=C(C=O)C=CC1OC | C9H10O3
reactant | ammonia water | 0.69 ml | O.N
reactant | ammonia water | 0.7 ml | O.N
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | water | 5 ml | O | H2O
product | 1-hydroxy-2-(3,4-dimethoxyphenyl)-4-methyl-5-(3-pyridyl)imidazole | 1.20 g | ON1C(=NC(=C1C=1C=NC=CC1)C)C1=CC(=C(C=C1)OC)OC | C17H17N3O3
